US08138178B2
3-((R)-3-((S)-1-(4-bromophenyl)ethyl)-2-oxo-6-phenyl-1,3-oxazinan-6-yl)-2,2-dimethylpropanenitrile (467 mg, 1.06 mmol), 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (538 mg, 2 equiv), KOAc (333 mg, 3.2 equiv), PdCl2(dppf)CH2Cl2 (27 mg, 0.033 equiv) were mixed with dry DMSO (6 mL). The mixture was degassed and refilled with N2 gas 3 times. The mixture was then heated overnight at 90° C. under protection of N2 gas. After being cooled to rt, the mixture was diluted with EtOAc (30 mL), washed with water (20 mL). The aqueous layer was extracted with EtOAc (2×15 mL). The combined organic layers were washed by water (15 mL), brine (2×10 mL) and dried over Na2SO4. After filtration and concentration, the residue was purified chromatography on a 40 g silica gel column, eluted with a 20-50% EtOAc in Hexanes gradient, to afford 2,2-dimethyl-3-((R)-2-oxo-6-phenyl-3-((S)-1-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)ethyl)-1,3-oxazinan-6-yl)propanenitrile (393 mg, 76% yield).

reactant | 3-((R)-3-((S)-1-(4-bromophenyl)ethyl)-2-oxo-6-phenyl-1,3-oxazinan-6-yl)-2,2-dimethylpropanenitrile | 1.06 mmol, 467 mg | BrC1=CC=C(C=C1)[C@H](C)N1C(O[C@](CC1)(C1=CC=CC=C1)CC(C#N)(C)C)=O | C23H25BrN2O2
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 538 mg, 2 equiv | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | KOAc | 333 mg, 3.2 equiv | CC(=O)[O-].[K+]
solvent | DMSO | 6 mL | CS(=O)C | C2H6OS
product | 2,2-dimethyl-3-((R)-2-oxo-6-phenyl-3-((S)-1-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)ethyl)-1,3-oxazinan-6-yl)propanenitrile | 393 mg, 76% yield | CC(C#N)(C[C@@]1(CCN(C(O1)=O)[C@@H](C)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)C1=CC=CC=C1)C | C29H37BN2O4
